US06011046
5-Acetoxy-2-bromomethyl-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran
Bromine (1.9 g) was added to a solution (40 ml) of 4-acetoxy-2,3-dimethoxy-5-methyl-6-(2-methyl-2-propenyl)phenol (3.0 g) and sodium acetate (1.0 g) in acetic acid, and the mixture was stirred at room temperature for 30 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium bicarbonate and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=85:15 to 4:1) to obtain the title compound (2.5 g, 65%) as an oil.

reactant | Bromine | 1.9 g | BrBr | Br2
reactant | 4-acetoxy-2,3-dimethoxy-5-methyl-6-(2-methyl-2-propenyl)phenol | 40 ml, 3.0 g | C(C)(=O)OC1=C(C(=C(C(=C1C)CC(=C)C)O)OC)OC | C15H20O5
reactant | sodium acetate | 1.0 g | C(C)(=O)[O-].[Na+]
reactant | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Acetoxy-2-bromomethyl-2,3-dihydro-6,7-dimethoxy-2,4-dimethylbenzofuran | 2.5 g, 65% | C(C)(=O)OC=1C(=C(C2=C(CC(O2)(C)CBr)C1C)OC)OC | C15H19BrO5
